### PR TITLE
Banachsteinhaus

### PR DESCRIPTION
**Pull request by mkerjean**
A proof of Baire and Banach-Steinhaus theorem, initiated by Theo Vignon. 

Waiting for [PR#183](https://github.com/math-comp/analysis/pull/183) to be merged to rebase on master.

### CODE REVIEW

**Comment by affeldt-aist** [comment]
I tried to simplify a bit the scripts. Tell me if I introduced to much mess, Maybe it is worth doing one more pass and discuss whether to put lemmas in other files. Should `le_closed_ball` moved in `normedtype.v` (maybe using the `homo` notation). Should `floor_nat_comp` go to `reals.v`? Should `bounded_landau` go to `landau.v`? @CohenCyril

**Comment by mkerjean** [comment]
> I tried to simplify a bit the scripts. Tell me if I introduced to much mess.
Seems good to me, thanks :)

File: theories/banach_steinhaus.v [hunk 1]
```diff
@@ -0,0 +1,235 @@
+From mathcomp Require Import all_ssreflect ssralg ssrnum ssrint interval.
+From mathcomp Require Import boolp reals posnum classical_sets topology.
+From mathcomp Require Import normedtype landau forms sequences.
+
+(******************************************************************************)
+(*                    Baire and Banach-Steinhaus theorems                     *)
+(*                                                                            *)
+(* initial author: Theo Vignon                                                *)
+(*                                                                            *)
+(******************************************************************************)
```
Comment (CohenCyril) [inline theories/banach_steinhaus.v:10]: Theo can also be credited by writing `Co-Authored-By :  Theo Vignon <insert his email address here>` in the commit log.

File: theories/banach_steinhaus.v [hunk 2]
```diff
@@ -0,0 +1,235 @@
...
+Definition dense (T : topologicalType) (S : T -> Prop) :=
+  forall (O : set T), (exists y, O y) -> open O -> exists x, (setI O S) x.
+
+Lemma denseNE (T : topologicalType) (S : set T) : not (dense S) ->
+  exists O, (exists x, (open_nbhs x) O) /\ (O `&` S = set0).
+Proof.
+rewrite /dense /open_nbhs.
+move=> /existsNP[X /not_implyP[[x Xx] /not_implyP[ Ox /forallNP A]]].
+by exists X; split; [exists x | rewrite -subset0; apply/A].
+Qed.
```
Comment (CohenCyril) [inline theories/banach_steinhaus.v:30]: This should probably go in topology.

File: theories/banach_steinhaus.v [hunk 3]
```diff
@@ -0,0 +1,235 @@
...
+Unset Strict Implicit.
+Unset Printing Implicit Defensive.
+
+Import Order.TTheory GRing.Theory Num.Theory Num.Def.
+Import numFieldNormedType.Exports.
+Local Open Scope ring_scope.
+Local Open Scope classical_set_scope.
+
+Definition dense (T : topologicalType) (S : T -> Prop) :=
+  forall (O : set T), (exists y, O y) -> open O -> exists x, (setI O S) x.
```
Comment (CohenCyril) [inline theories/banach_steinhaus.v:22]:
```suggestion
  forall (O : set T), O =!set0 -> open O ->  O `&` S !=set0.
```

**Comment by mkerjean** [comment]
> I tried to simplify a bit the scripts. Tell me if I introduced to much mess, Maybe it is worth doing one more pass and discuss whether to put lemmas in other files. Should `le_closed_ball` moved in `normedtype.v` (maybe using the `homo` notation). Should `floor_nat_comp` go to `reals.v`? Should `bounded_landau` go to `landau.v`? @CohenCyril

As `bounded_landau` depends of the newly introduced defininition `bounded_fun_norm`, shouldn't it stay in near Banach-Steinhaus theorem for the time being ? And then Banach-Steinhaus needs to be inserted as a section/module in `landau.v` ?

**Comment by affeldt-aist** [comment]
> As `bounded_landau` depends of the newly introduced defininition `bounded_fun_norm`,
> shouldn't it stay in near Banach-Steinhaus theorem for the time being ?

I was thinking that `bounded_fun_norm` would go to `landau.v` too.

> And then Banach-Steinhaus needs to be inserted as a section/module in `landau.v` ?

Indeed, we wrongly stated that it should go to `normedtype.v` during the meeting. :-(

**Comment by affeldt-aist** [comment]
Follow-up to Friday's meeting: I tried to replace `floor_nat_comp` with more primitive lemmas and the usage of `ceil`.

File: theories/banach_steinhaus.v [hunk 4]
```diff
@@ -0,0 +1,223 @@
...
+Qed.
+(* END NB: PR in progress *)
+
+Section Baire.
+Variable K : realType.
+
+Definition Baire (U : completeNormedModType K) := forall F : (set U)^nat,
+  (forall i, open (F i) /\ dense (F i)) -> dense (\bigcap_i (F i)).
+
+Theorem DeBaire (U : completeNormedModType K) : Baire U.
```
Comment (CohenCyril) [inline theories/banach_steinhaus.v:42]: Let's inline `Baire` in here and call the theorem `dense_bigcap` with a comment that this is Baire theorem.

Comment (mkerjean) [reply theories/banach_steinhaus.v:42]: Why do we need to call the theorem `dense_bigcap` ? A potential user is going to look for "Baire", never for "bigcap" no ?

Comment (CohenCyril) [reply theories/banach_steinhaus.v:42]: I just wish one day we have docstrings and we are able to document the historical name of a theorem in a searchable way while not breaking the name conventions of the library. But for the time being ok for calling the theorem "Baire".

**Comment by mkerjean** [comment]
At the end Baire's theorem depends on sequences, thus Baire's and Banach-Steinhauss theorem have been added in `sequences.v`, as well as the auxiliary definitions on bounded function (to be removed one day).

**Comment by affeldt-aist** [comment]
NB: This PR uses the lemma `gtz0_norm` expecting it to be integrated into MathComp.
This is rather this lemma:
```
Lemma natr_absz i : `|i|%:R = `|i|%:~R :> R.
Proof. by rewrite -abszE. Qed.
```
that is likely to be merged into MathComp (see PR https://github.com/math-comp/math-comp/pull/732/).
Maybe update this PR accordingly?

**Comment by mkerjean** [comment]
> NB: This PR uses the lemma `gtz0_norm` expecting it to be integrated into MathComp. This is rather this lemma:
> 
> ```
> Lemma natr_absz i : `|i|%:R = `|i|%:~R :> R.
> Proof. by rewrite -abszE. Qed.
> ```
> 
> that is likely to be merged into MathComp (see PR [math-comp/math-comp#732](https://github.com/math-comp/math-comp/pull/732)). Maybe update this PR accordingly?

These lemmas have been integrated to MathComp 1.13 and Analysis seems to depend on math-comp 1.13, but I can't find them within sequence.v in this branch, any idea why ?

**Comment by CohenCyril** [comment]
> These lemmas have been integrated to MathComp 1.13 and Analysis seems to depend on math-comp 1.13, but I can't find them within sequence.v in this branch, any idea why ?

Hi! mathcomp-analysis is compatible with both (and with 1.14 too), and the default nix-shell uses the most conservative of the two (so 1.12.0).
I am strongly in support of 1.12.0 ASAP, that would solve your issue and several of mine :)

**Comment by CohenCyril** [comment]
Meanwhile is you use `nix-shell --argstr bundle 8.14` it will use Coq 8.14 and force mathcomp to 1.13.

**Comment by affeldt-aist** [comment]
I rebased on top of master.

I've cooked up the following definition to build a linear function in the course
of the proof but there may be another, better solution:
```coq
Definition mylinear (f : V -> W) (lf : linear f) : {linear V -> W}.
```
